US05731322
(±)-trans-2-(i-Butoxycarbonyl)-6-ethyl-8a-(3-hydroxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride
0.56 g of (±)-trans-2-(i-butoxycarbonyl)-6-ethyl-3-methyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride were treated with 0.68 ml (7.26 mmol) of boron tribromide as described in example 2. The residue was purified by flash chromatography (AcOEt/MeOH/conc. NH4OH 75:25:2.5) and then crystallised from AcOEt yielding 0.1 g of the title compound. M.p.=196°-198° C.

reactant | (±)-trans-2-(i-butoxycarbonyl)-6-ethyl-3-methyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride | 0.56 g | Cl.C(C(C)C)OC(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)CC)C2=CC(=CC=C2)OC)N1)C
reactant | boron tribromide | 7.26 mmol, 0.68 ml | B(Br)(Br)Br | BBr3
product | (±)-trans-2-(i-Butoxycarbonyl)-6-ethyl-8a-(3-hydroxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride | Cl.C(C(C)C)OC(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)CC)C2=CC(=CC=C2)O)N1)C | InChI=1S/C25H34N2O3.ClH/c1-5-27-10-9-25(18-7-6-8-20(28)11-18)13-22-21(12-19(25)14-27)17(4)23(26-22)24(29)30-15-16(2)3;/h6-8,11,16,19,26,28H,5,9-10,12-15H2,1-4H3;1H/t19-,25+;/m1./s1
